US07517910B2
tert-butyl 5-bromo-1H-indole-1-carboxylate
A solution of 5-bromo-indole (5.0 g, 25.5 mmol), di-tert-butyl dicarbonate (7.6 mL, 33.1 mmol) and 4-dimethylaminopyridine (0.15 g, 1.23 mmol) in acetonitrile (50 mL) was stirred at room temperature for 3 hr. An aqueous citric acid solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (7.8 g, yield 100%) as a pale-yellow oil.

reactant | 5-bromo-indole | 25.5 mmol, 5.0 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | di-tert-butyl dicarbonate | 33.1 mmol, 7.6 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | 4-dimethylaminopyridine | 1.23 mmol, 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | tert-butyl 5-bromo-1H-indole-1-carboxylate | 7.8 g, yield 100% | BrC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C13H14BrNO2
